US09428456B2
1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid cyclohexylamide
A solution of 1-(3-Amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide BB-1 (80 mg, 0.25 mmol) in DCM (3 mL) is treated with DIPEA (33 mg, 43 μl, 0.25 mmol) under argon and cooled to 0° C. A solution of 4-chlorobenzoylchloride (49 mg, 0.28 mmol) in DCM (1 mL) is added and the resulting solution is stirred at 0° C. for 2 h. The mixture is diluted with DCM (25 mL) and washed twice with aq. sat. NaHCO3 (25 mL). The solvent is evaporated and the title compound is obtained by prep. LC-MS F as a colorless powder: LC-MS A: tR=0.81 min; [M+H]+=454.4. 1H-NMR (DMSO-d6): δ 1-1.3 (m, 6H), 1.5-1.7 (m, 9H), 1.8-2.1 (m, 3H), 2.8-2.9 (m, 2H), 3.4-3.5 (m, 3H), 7.03 (d, J=8, 1H), 7.29 (t, J=8, 1H), 7.5-7.7 (m, 5H), 7.98 (d, J=8, 1H), 10.2 (s, 1H).

reactant | 1-(3-Amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide | 0.25 mmol, 80 mg | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)N | C19H29N3O
reactant | DIPEA | 0.25 mmol, 43 μl, 33 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorobenzoylchloride | 0.28 mmol, 49 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(C1=CC=C(C=C1)Cl)=O | C26H32ClN3O2
